US07851463B2
138.2 3-(4-Nitro-phenyl)-1-propyl-piperidine
To ice cooled 3-phenyl-1-propyl-piperidine (4.6 g, 19.73 mmol) and KNO3 (2.254 g, 22.29 mmol) was added concentrated H2SO4. The reaction mixture was allowed to warm to room temperature and stirred for another 30 minutes. To the reaction mixture was added cautiously ice and subsequently the pH was adjusted to 9-10. The aqueous phase was extracted several times with ethyl acetate. The organic phases was dried over magnesium sulfate, filtered, and evaporated to dryness to yield the crude product (5.2 g, 81% purity).

reactant | 3-phenyl-1-propyl-piperidine | 19.73 mmol, 4.6 g | C1(=CC=CC=C1)C1CN(CCC1)CCC | C14H21N
reactant | KNO3 | 22.29 mmol, 2.254 g | [N+](=O)([O-])[O-].[K+]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
product | 3-(4-Nitro-phenyl)-1-propyl-piperidine | 5.2 g, 81% | [N+](=O)([O-])C1=CC=C(C=C1)C1CN(CCC1)CCC | C14H20N2O2
